US08445512B2
A mixture of 1.0 g (5.0 mmol) 1-(2-amino-4-(trifluoromethyl)phenyl)ethanone, 3.4 ml (25.0 mmol) ethyl 3-chloro-3-oxopropanoate and 435 μl (5.0 mmol) conc. hydrochloric acid was heated in a sealed vessel in the MW to 100° C. for 30 min. The mixture was subsequently diluted with EtOAc and water. The organic phase was separated, washed with a 1M aq. NaHCO3 sol., dried over MgSO4 and concentrated in a vacuum. The raw product (1.14 g) obtained after CC (EtOAc/hexane 3:17) of the residue was dissolved in MeCN (6 ml) and 2.7 ml (15.5 mmol) DIPEA and 838 mg (10.3 mmol) dimethylammoniumchlorid were added. The mixture was subsequently stirred at RT for 16 h. After cooling to RT, the mixture was diluted with water and extracted with EtOAc. The organic layer was extracted twice a 2N aq. HCl and water. The combined aqueous layers were basified with Na2CO3 and extracted with EtOAc. The organic layer was washed with brine, dried over MgSO4 and concentrated in vacuum. As residue 776 mg (2.3 mmol, 46%) 2-((dimethylamino)methyl)-4-methyl-7-(trifluoromethyl)quinoline-3-carboxylic acid ethyl ester was obtained.

reactant | 1-(2-amino-4-(trifluoromethyl)phenyl)ethanone | 5.0 mmol, 1.0 g | NC1=C(C=CC(=C1)C(F)(F)F)C(C)=O | C9H8F3NO
reactant | ethyl 3-chloro-3-oxopropanoate | 25.0 mmol, 3.4 ml | ClC(CC(=O)OCC)=O | C5H7ClO3
reactant | hydrochloric acid | 5.0 mmol, 435 μl | Cl | ClH
reactant | DIPEA | 15.5 mmol, 2.7 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | dimethylammoniumchlorid | 10.3 mmol, 838 mg | [Cl-].C[NH2+]C
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
solvent | MeCN | 6 ml | CC#N | C2H3N
product | 2-((dimethylamino)methyl)-4-methyl-7-(trifluoromethyl)quinoline-3-carboxylic acid ethyl ester | 2.3 mmol, 776 mg, 46% | C(C)OC(=O)C=1C(=NC2=CC(=CC=C2C1C)C(F)(F)F)CN(C)C | C17H19F3N2O2
